US07557103B2
8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-thieno[3,2-b]pyridin-2-yl)-imidazo[1,2-b]pyridazine
190 mg of 3-Methyl-thieno[3,2-b]pyridine (1.28 mmol) is dissolved in 3.0 ml of dry THF and cooled to −78° C. 0.62 ml of n-BuLi 2.5M in hexane (1.54 mmol) is added at −78° C. and stirred at −78° C. for 10 min and room temperature for 10 min. The reaction vessel is cooled to −78° C. again and 3.3 ml of 0.5 M ZnCl2 in THF (1.66 mmol) is added at −78C and stirred at room temperature for 15 min. 343 mg of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.0 mmol) and 41 mg of PdCl2(pddf) (0.05 mmol) are added and the tube is capped. The tube is heated at 80° C. for overnight. The reaction is quenched by NH4Claq. and extracted by CH2Cl2, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=10:3:1) to give 127 mg of the title compound. Yield 35%. mass spectrum (m/e): 365 (M+1); 1H-NMR (CDCl3): 8.79 (dd, 1H, J=4.8 Hz, 1.4 Hz), 8.21 (dd, 1H, J=7.9 Hz, 1.4 Hz), 7.33 (dd, 1H, J=7.9 Hz, 4.8 Hz), 6.76 (s, 1H), 3.38 (m, 1H), 2.55 (s, 6H), 2.47 (s, 3H), 1.89 (m, 4H), 0.92 (t, 6H, J=7.5 Hz) ppm.

reactant | 3-Methyl-thieno[3,2-b]pyridine | 1.28 mmol, 190 mg | CC1=CSC=2C1=NC=CC2 | C8H7NS
reactant | n-BuLi | 2.5M, 0.62 ml | [Li]CCCC
reactant | hexane | 1.54 mmol | CCCCCC | C6H14
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.0 mmol, 343 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.5 M, 3.3 ml | [Cl-].[Cl-].[Zn+2]
solvent | THF | 1.66 mmol | C1CCOC1 | C4H8O
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-thieno[3,2-b]pyridin-2-yl)-imidazo[1,2-b]pyridazine | 127 mg, Yield 35% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=NC=CC=C1S2)C | C21H24N4S
